US07157464B2
Synthesis of 1-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazole-3,5-dicarboxylic acid diethyl ester
Protocol T was followed using 1H-Pyrazole-3,5-dicarboxylic acid diethyl ester, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1) afforded the title compound as a white solid. 1H NMR (400 MHz, CDCl3): 7.38 (s, 1H), 6.94–7.0 (m, 2H), 6.82–7.90 (dd, 2H), 5.54 (s, 2H), 4.36–4.42 (q, 2H), 4.26–4.32 (q, 2H), 3.60–3.80 (m, 4H), 3.02–3.20 (m, 4H), 1.22–1.42 (m, 6H). 13C NMR (400 MHz, CDCl3): 164.2, 162.2, 158.2, 157.4, 156.2, 148.5, 144.4, 134.2, 118.4, 116.2, 115.8, 114.2, 62, 61.8, 54.2, 50.6, 50.2, 45.2, 42.2, 14.6, 14.2.

reactant | 1H-Pyrazole-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=NNC(=C1)C(=O)OCC | C9H12N2O4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazole-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=NN(C(=C1)C(=O)OCC)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C21H25FN4O5
